US07932272B2
2,5-Diamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
2-Amino-5-nitro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide (74 mg, 0.20 mmol) described in Preparation Example A+-9, an iron powder (56 mg, 1.0 mmol) and ammonium chloride (21 mg, 0.40 mmol) were suspended in a solvent mixture of ethanol (2 mL) and water (0.5 mL), the solution was stirred at 60° C. for 3 hours, then, it was stirred at 90° C. for 6 hours. The reaction solution was cooled to room temperature, then, it was filtered through Celite pad. The filtrate was evaporated in vacuo, the residue was purified by reverse phase high performance liquid chromatography (acetonitrile-water:mobile phase (containing 0.1% trifluoroacetic acid) was used), and the title compound (54.4 mg) was obtained as a trifluoroacetic acid salt.

reactant | 2-Amino-5-nitro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.20 mmol, 74 mg | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=C(C=N1)[N+](=O)[O-] | C17H14N4O4S
reactant | ammonium chloride | 0.40 mmol, 21 mg | [Cl-].[NH4+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | iron | 1.0 mmol, 56 mg | [Fe] | Fe
solvent | water | 0.5 mL | O | H2O
product | 2,5-Diamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 54.4 mg | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=C(C=N1)N | C17H16N4O2S
